US07750029B2
A mixture of 11.0 kg of (R)-2-[[2-(4-nitrophenyl)ethyl]amino]-1-phenylethanol monohydrochloride, 110 liters of methanol and 1.20 kg of wet 10% palladium-carbon (wetting rate: 54.2%) was stirred in a hydrogen atmosphere until absorption of hydrogen stopped. The reaction solution was filtered and the filtrate was concentrated in vacuo. Methanol (40 liters) was added to the residue to dissolve at 40° C. and crystallization was conducted by addition of 220 liters of diisopropyl ether thereto followed by stirring at 20° C. throughout one night. The crystals were filtered and washed with 30 liters of diisopropyl ether. They were dried in vacuo to give 9.43 kg of (R)-2-[[2-(4-aminophenyl)ethyl]amino]-1-phenylethanol monohydrochloride.

reactant | (R)-2-[[2-(4-nitrophenyl)ethyl]amino]-1-phenylethanol monohydrochloride | 11.0 kg | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCNC[C@H](O)C1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | methanol | 110 liters | CO | CH4O
product | (R)-2-[[2-(4-aminophenyl)ethyl]amino]-1-phenylethanol monohydrochloride | 9.43 kg | Cl.NC1=CC=C(C=C1)CCNC[C@H](O)C1=CC=CC=C1 | InChI=1S/C16H20N2O.ClH/c17-15-8-6-13(7-9-15)10-11-18-12-16(19)14-4-2-1-3-5-14;/h1-9,16,18-19H,10-12,17H2;1H/t16-;/m0./s1
